US07915443B2
(S)-5-[(6-hydroxypyridin-3-yl)ethynyl]-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide
A solution of (S)-N-[methyl(oxo)phenyl-λ6-sulfanylidene]-5-[(trimethylsilyl)ethynyl]-nicotinamide (150 mg, 0.42 mmol) and 2-hydroxy-5-iodopyridine (105.4 mg, 0.46 mmol) in DMF (2.1 mL) was degassed (vacuum and argon). The resulting solution was treated tetrakis(triphenylphosphine)palladium(0) (24 mg, 0.021 mmol), triethylamine (0.08 mL, 0.55 mmol), and CuI (8 mg, 0.042 mmol). The reaction mixture was then heated to 85° C. and tetrabutylammonium fluoride (1.0 M solution in THF, 0.46 mL, 0.46 mmol) was added dropwise over 10 min. The reaction was allowed to be stirred at 85° C. for 2 hours. The reaction mixture was partitioned between EtOAc and H2O. The organic extracts and associated solid were collected and concentrated. The residue was purified by chromatography (silica gel, gradient elution MeOH—CHCl3: 1:100-1:4). The product containing fractions were collected, concentrated, and the brown solid residue was triturated with a combination of MeOH and EtOAc. The resulting mixture was filtered and the filtrate allowed to stand at room temperature. The solid which precipitated from solution was collected and dried to give the title compound as a white solid (11 mg).

reactant | (S)-N-[methyl(oxo)phenyl-λ6-sulfanylidene]-5-[(trimethylsilyl)ethynyl]-nicotinamide | 0.42 mmol, 150 mg | C[S@@](=NC(C1=CN=CC(=C1)C#C[Si](C)(C)C)=O)(C1=CC=CC=C1)=O | C18H20N2O2SSi
reactant | 2-hydroxy-5-iodopyridine | 0.46 mmol, 105.4 mg | OC1=NC=C(C=C1)I | C5H4INO
reactant | triethylamine | 0.55 mmol, 0.08 mL | C(C)N(CC)CC | C6H15N
reactant | tetrabutylammonium fluoride | 0.46 mmol, 1.0 M, 0.46 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 2.1 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.021 mmol, 24 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.042 mmol, 8 mg | [Cu]I
product | (S)-5-[(6-hydroxypyridin-3-yl)ethynyl]-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 11 mg | OC1=CC=C(C=N1)C#CC=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1 | C20H15N3O3S
